US07795254B2
A resealable tube was charged with 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-7-methoxyquinolin-6-ol (0.200 g, 0.617 mmol), 4-nitrophenyl 5-methylisoxazol-3-ylcarbamate (0.243 g, 0.925 mmol), and THF (5.0 mL). Triethylamine (0.258 mL, 1.85 mmol) was added, the system was purged with argon, and the tube was sealed. The mixture stirred at 50° C. for 15 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a yellow-orange oil. This material was purified via column chromatography on silica gel (RediSep 40 g column, eluting with 5% methanol-dichloromethane) to afford a yellow oil. This material was triturated with dichloromethane and filtered to afford 7-(6-hydroxy-7-methoxyquinolin-4-yloxy)-N-(5-methylisoxazol-3-yl)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxamide (0.104 g, 38% yield) as an off-white solid.

reactant | 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-7-methoxyquinolin-6-ol | 0.617 mmol, 0.200 g | O1C2=C(NCC1)C=CC(=C2)OC2=CC=NC1=CC(=C(C=C21)O)OC | C18H16N2O4
reactant | 4-nitrophenyl 5-methylisoxazol-3-ylcarbamate | 0.925 mmol, 0.243 g | CC1=CC(=NO1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H9N3O5
reactant | Triethylamine | 1.85 mmol, 0.258 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 7-(6-hydroxy-7-methoxyquinolin-4-yloxy)-N-(5-methylisoxazol-3-yl)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxamide | 0.104 g, 38% yield | OC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(OCCN2C(=O)NC2=NOC(=C2)C)C1 | C23H20N4O6
